US06768023B2
Isopropylbenzene (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.2 mmol), and acetic acid (1 ml) were placed in a flask and were stirred at 80° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that isopropenylbenzene, (1-hydroxy-1-methylethyl)benzene, and (1-methyl-1-nitroethyl)benzene were formed in yields of 60%, 6%, and 7%, respectively.

reactant | Isopropylbenzene | 1 ml | C(C)(C)C1=CC=CC=C1 | C9H12
reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.2 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | isopropenylbenzene | C(=C)(C)C1=CC=CC=C1 | C9H10
reactant | (1-hydroxy-1-methylethyl)benzene | OC(C)(C)C1=CC=CC=C1 | C9H12O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | (1-methyl-1-nitroethyl)benzene | CC(C)([N+](=O)[O-])C1=CC=CC=C1 | C9H11NO2
